US05055572
0.670 g (1.675 mmol) of 1-[(1,4-dihydro-5-hydroxy-4-oxo-2-pyridyl)carbonyl]-2-[2-methyl-2-(phthalimidooxy)propionyl]hydrazine was dissolved in 1.5 ml of dimethylformamide and treated with 0.077 g (1.675 mmol) of methylhydrazine. After stirring for 21/2 hours at room temperature about 2 ml of ethanol were added. The crystals obtained were filtered off and discarded. The filtrate was evaporated under strongly reduced pressure and the product was crystallized from ethanol. 1-[2-(aminooxy)-2-methylpropionyl]-2-[(1,4-dihydro-5-hydroxy-4-oxo-2-pyridyl)carbonyl]hydrazine was obtained as white crystals melting at 234° (dec.).

reactant | 1-[(1,4-dihydro-5-hydroxy-4-oxo-2-pyridyl)carbonyl]-2-[2-methyl-2-(phthalimidooxy)propionyl]hydrazine | 1.675 mmol, 0.670 g | OC=1C(C=C(NC1)C(=O)NNC(C(C)(ON1C(C=2C(C1=O)=CC=CC2)=O)C)=O)=O | C18H16N4O7
reactant | methylhydrazine | 1.675 mmol, 0.077 g | CNN | CH6N2
reactant | ethanol | about 2 ml | C(C)O | C2H6O
solvent | dimethylformamide | 1.5 ml | CN(C=O)C | C3H7NO
product | 1-[2-(aminooxy)-2-methylpropionyl]-2-[(1,4-dihydro-5-hydroxy-4-oxo-2-pyridyl)carbonyl]hydrazine | NOC(C(=O)NNC(=O)C=1NC=C(C(C1)=O)O)(C)C | C10H14N4O5
